US07981893B2
SYNTHESIS OF 6-(2-METHYL-4-(1H-1,2,4-TRIAZOL-3-YL)PHENYL)-1-(2-(TETRAHYDRO-2H-PYRAN-4-YL)ETHYL)-1H-IMIDAZO[4,5-B]PYRAZIN-2(3H)-ONE
6-(3-Methyl-4-(1H-1,2,4-Triazol-3-yl)phenyl)-1-((tetrahydro-2H-pyran-4-yl)methyl)-1H-imidazo[4,5-B]pyrazin-2(3H)-one. 6-(3-Methyl-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazol-3-yl)phenyl)-1-((tetrahydro-2H-pyran-4-yl)ethyl)-1H-imidazo[4,5-B]pyrazin-2(3H)-one (0.283 g, 0.578 mmol) was added to 6.0 M hydrogen chloride in dioxane (4.0 mL) and stirred at 25° C. for 2 h. The solution was condensed under reduced pressure and purified using reverse-phase semi-preparatory HPLC (20-70% acetonitrile+0.1% TFA in H2O+0.1% TFA, over 30 min). Clean fractions were combined, neutralized with ammonium hydroxide, concentrated, diluted with water (20 mL). The desired product was collected by filtration to afford the title compound as an off white solid, 99.5% pure, (0.061 g, 26%). 1H NMR (400 MHz, CD3OD-d4) δ 8.40 (br. s., 1H), 8.07 (s, 1H), 8.00 (s, 1H), 7.94 (d, J=8.20, 1H), 7.55 (d, J=8.20, 1H), 4.04 (t, J=7.22, 2H), 3.90 (dd, J=11.32, 3.51, 2H), 3.34-3.42 (m, 3H), 2.49 (s, 3H), 1.70-1.87 (m, 4H), 1.58 (dddd, J=10.93, 7.32, 4.10, 3.81, 1H), 1.50-1.66 (m, 1H), 1.22-1.40 (m, 2H); MS (ESI) m/z 408.5 [M+1]+; mp 258-260° C.

reactant | 6-(3-Methyl-4-(1H-1,2,4-Triazol-3-yl)phenyl)-1-((tetrahydro-2H-pyran-4-yl)methyl)-1H-imidazo[4,5-B]pyrazin-2(3H)-one | CC=1C=C(C=CC1C1=NNC=N1)C1=CN=C2C(=N1)N(C(N2)=O)CC2CCOCC2 | C20H21N7O2
reactant | 6-(3-Methyl-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazol-3-yl)phenyl)-1-((tetrahydro-2H-pyran-4-yl)ethyl)-1H-imidazo[4,5-B]pyrazin-2(3H)-one | 0.578 mmol, 0.283 g | CC=1C=C(C=CC1C1=NN(C=N1)C1OCCCC1)C1=CN=C2C(=N1)N(C(N2)=O)CCC2CCOCC2 | C26H31N7O3
reactant | hydrogen chloride | 6.0 M | Cl | ClH
solvent | dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
product | 6-(2-METHYL-4-(1H-1,2,4-TRIAZOL-3-YL)PHENYL)-1-(2-(TETRAHYDRO-2H-PYRAN-4-YL)ETHYL)-1H-IMIDAZO[4,5-B]PYRAZIN-2(3H)-ONE | CC1=C(C=CC(=C1)C1=NNC=N1)C1=CN=C2C(=N1)N(C(N2)=O)CCC2CCOCC2 | C21H23N7O2
